US04789678
1-[4-bis(2-fluorophenylmethyl)amino-2-methyl-3-quinolinyl]-ethanone
A solution of 1-(4-amino-2-methyl-3-quinolinyl)-ethanone in dimethylsulfoxide (150 ml) was added to a stirred slurry of pulverized 85% potassium hydroxide (7 g) in dimethylsulfoxide (40 ml). This mixture was stirred at ambient temperature for twenty minutes, and thereafter a solution of o-fluorobenzylchloride (15.2 g) in dimethylsulfoxide (40 ml) was added dropwise. The mixture was stirred for two hours and allowed to stand overnight at room temperature. Thereafter, it was then poured onto ice and diluted with water to form a tacky lump. This was allowed to stand for fifteen minutes, and the aqueous dimethylsulfoxide was decanted. The tacky precipitate was dissolved in dichloromethane, washed with water (3×) and saturated sodium chloride solution, and dried over sodium sulfate. Removal of the sodium sulfate by filtration and the solvent by evaporation gave 26.5 g of viscous oil.

reactant | 1-(4-amino-2-methyl-3-quinolinyl)-ethanone | NC1=C(C(=NC2=CC=CC=C12)C)C(C)=O | C12H12N2O
reactant | potassium hydroxide | 7 g | [OH-].[K+]
reactant | o-fluorobenzylchloride | 15.2 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-[4-bis(2-fluorophenylmethyl)amino-2-methyl-3-quinolinyl]-ethanone | 26.5 g | FC1=C(C=CC=C1)CN(C1=C(C(=NC2=CC=CC=C12)C)C(C)=O)CC1=C(C=CC=C1)F | C26H22F2N2O
